US05817670
In an atmosphere of argon, 1.69M n-butyl lithiumhexane solution (53 ml, 90.0 mmol) was added dropwise to an ether solution (150 ml) of diisopropylamine (9.61 g, 95.0 mmol) which was cooled at -78° C. After 15 minutes of stirring, an ether solution (20 ml) of tert-butyl acetate (10.5 g, 90.5 mmol) was slowly added dropwise. After 30 minutes of stirring, a tetrahydrofuran solution (30 ml) of 3-benzoyl-2-pivaloylaminopyridine (12.0 g, 42.6 mmol) was added dropwise. After 30 minutes of stirring, this was warmed up to room temperature and stirred for 5 hours. The reaction solution was poured into water and extracted with chloroform. The organic layer was dried over anhydrous magnesium sulfate. After removing magnesium sulfate by filtration, the resulting filtrate was concentrated under reduced pressure to give tert-butyl 2-pivaloylamino-β-hydroxy-β-phenyl-3-pyridinepropanoate (16.9 g, 100%).

reactant | n-butyl lithiumhexane | 90.0 mmol, 1.69M, 53 ml | CCCCCC.C(CCC)[Li]
reactant | diisopropylamine | 95.0 mmol, 9.61 g | C(C)(C)NC(C)C | C6H15N
reactant | tert-butyl acetate | 90.5 mmol, 10.5 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 3-benzoyl-2-pivaloylaminopyridine | 42.6 mmol, 12.0 g | C(C1=CC=CC=C1)(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C17H18N2O2
solvent | water | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | tert-butyl 2-pivaloylamino-β-hydroxy-β-phenyl-3-pyridinepropanoate | 16.9 g, 100% | C(C(C)(C)C)(=O)NC1=NC=CC=C1C(CC(=O)OC(C)(C)C)(C1=CC=CC=C1)O | C23H30N2O4
